US08119805B2
Stage (ii): 1-(2-Chloro-6-methylphenylsulfonyl)piperidine-2-carbaldehyde
Oxalyl chloride (3.3 mmol, 2 eq.) was dissolved in methylene chloride and DMSO (4 eq) was added under argon at −78° C. and the reaction mixture was then stirred at this temperature for 15 min. (1-(2-Chloro-6-methylphenylsulfonyl)-piperidin-2-yl)methanol (1.65 mmol) was dissolved in methylene chloride (15 ml) and the solution was added dropwise to the reaction solution at −78° C. The resulting mixture was stirred for 1 h. Triethylamine (8.25 mmol, 5 eq) was then added and the reaction solution was warmed to room temperature and stirred for 1 h. It was then diluted with methylene chloride (10 ml) and washed with saturated ammonium chloride solution (10 ml), water (2×20 ml) and saturated sodium chloride solution (10 ml). The organic phase was dried over sodium sulfate and the filtrate was concentrated to dryness under reduced pressure. The crude product was employed in the next stage without further purification. Yield: 80%

reactant | Oxalyl chloride | 3.3 mmol, 2 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 4 eq | CS(=O)C | C2H6OS
reactant | (1-(2-Chloro-6-methylphenylsulfonyl)-piperidin-2-yl)methanol | 1.65 mmol | ClC1=C(C(=CC=C1)C)S(=O)(=O)N1C(CCCC1)CO | C13H18ClNO3S
reactant | Triethylamine | 8.25 mmol, 5 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-6-methylphenylsulfonyl)piperidine-2-carbaldehyde | Yield: 80% | ClC1=C(C(=CC=C1)C)S(=O)(=O)N1C(CCCC1)C=O | C13H16ClNO3S
